US07319099B2
(b) 4-Ethanesulfonyl-1,2-difluoro-benzene
To 3.0 mmol 3,4-difluoro-benzenesulfinic acid and 3.0 mmol triethylamine in 10 ml DMF was added 7.5 mmol iodoethane and the mixture heated at 90° C. for 9 h. The reaction mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were then washed twice with saturated aq. NaCl solution, dried over Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane 1:7) to afford the title compound. MS (m/e): 206.9 (M+H+, 100%)

reactant | 3,4-difluoro-benzenesulfinic acid | 3.0 mmol | FC=1C=C(C=CC1F)S(=O)O | C6H4F2O2S
reactant | triethylamine | 3.0 mmol | C(C)N(CC)CC | C6H15N
reactant | iodoethane | 7.5 mmol | ICC | C2H5I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Ethanesulfonyl-1,2-difluoro-benzene | C(C)S(=O)(=O)C1=CC(=C(C=C1)F)F | C8H8F2O2S
